US07816371B2
d. (2R)-Methyl 3-(tert-butyldimethylsilyloxy)-2-(5-(2-(4-chlorophenyl)propanamido)-1-oxoisoquinolin-2-(1H)-yl)propanoate
A round bottom flask was charged with (R)-methyl 2-(5-amino-1-oxoisoquinolin-2(1H)-yl)-3-(tert-butyldimethylsilyloxy)propanoate (500 mg, 0.001 mol), N,N-dimethylformamide (2 mL, 0.03 mol), N,N-diisopropylethylamine (0.5 mL, 0.003 mol), N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate (1 g, 0.003 mol) and 2-(4-chlorophenyl)propanoic acid (340 mg, 0.0018 mol) and the reaction stirred at room temperature overnight then for another 12 h. The solvent was removed and the residue purified by flash chromatography to yield the product as a white solid. MS m/z=545.4 (M+H).

reactant | (R)-methyl 2-(5-amino-1-oxoisoquinolin-2(1H)-yl)-3-(tert-butyldimethylsilyloxy)propanoate | 0.001 mol, 500 mg | NC1=C2C=CN(C(C2=CC=C1)=O)[C@@H](C(=O)OC)CO[Si](C)(C)C(C)(C)C | C19H28N2O4Si
reactant | N,N-dimethylformamide | 0.03 mol, 2 mL | CN(C=O)C | C3H7NO
reactant | N,N-diisopropylethylamine | 0.003 mol, 0.5 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate | 0.003 mol, 1 g | F[P-](F)(F)(F)(F)F.C[N+](=C(ON1N=NC2=C1N=CC=C2)N(C)C)C
reactant | 2-(4-chlorophenyl)propanoic acid | 0.0018 mol, 340 mg | ClC1=CC=C(C=C1)C(C(=O)O)C | C9H9ClO2
product | (2R)-Methyl 3-(tert-butyldimethylsilyloxy)-2-(5-(2-(4-chlorophenyl)propanamido)-1-oxoisoquinolin-2-(1H)-yl)propanoate | [Si](C)(C)(C(C)(C)C)OC[C@H](C(=O)OC)N1C(C2=CC=CC(=C2C=C1)NC(C(C)C1=CC=C(C=C1)Cl)=O)=O | C28H35ClN2O5Si
